US08492395B2
A stirred solution of 2-amino-N-(2,6-dioxo-piperidin-3-yl)-3-methyl-benzamide (0.9 g, 3.4 mmol) and trimethyl orthoformate (4.5 mL) and p-toluene sulfonic acid (250 mg) in acetonitrile (20 mL) was heated to reflux for 17 hours. To the mixture, was added water (75 mL) and stirred for 20 minutes. The suspension was filtered and washed with methanol (20 mL), water (20 mL) and ethyl acetate (20 mL) to give a purple solid. The solid in NMP (4 mL) was heated at 80° C. for 30 minutes. To the solution, was added water (1 mL), and the mixture was allowed to cool to room temperature. The suspension was filtered and washed with water (30 mL) to give 3-(8-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione as a light purple solid (660 mg, 72% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 30/70 CH3CN/0.1% H3PO4, 3.07 min (98.6%); mp: 290-292° C.; 1H NMR (DMSO-d6) δ2.11-2.19 (m, 1H, CHH), 2.56 (s, 3H, CH3), 2.62-2.93 (m, 3H, CH2, CHH), 5.48 (br, 1H, NCH), 7.46 (t, J=8 Hz, 1H, Ar), 7.73 (d, J=8 Hz, 1H, Ar), 7.99 (d, J=8 Hz, 1H, Ar), 8.38 (s, 1H, CH), 11.16 (s, 1H, NH); 13C NMR (DMSO-d6) δ 17.01, 22.53, 30.97, 56.22, 121.36, 123.79, 126.51, 126.86, 135.03, 135.47, 136.39, 145.96, 146.36, 159.97, 169.92, 172.52; LCMS: MH=272; Anal Calcd for C14H13N3O3: C, 61.99; H, 4.83; N, 15.49. Found: C, 61.70; H, 4.68; N, 15.40.

reactant | 2-amino-N-(2,6-dioxo-piperidin-3-yl)-3-methyl-benzamide | 3.4 mmol, 0.9 g | NC1=C(C(=O)NC2C(NC(CC2)=O)=O)C=CC=C1C | C13H15N3O3
reactant | trimethyl orthoformate | 4.5 mL | C(OC)(OC)OC | C4H10O3
reactant | p-toluene sulfonic acid | 250 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | 75 mL | O | H2O
reactant | water | 1 mL | O | H2O
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | NMP | 4 mL | CN1CCCC1=O | C5H9NO
product | 3-(8-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione | 660 mg, 72% yield | CC=1C=CC=C2C(N(C=NC12)C1C(NC(CC1)=O)=O)=O | C14H13N3O3
